US04863904
To a solution of 190 mg of (±)-2-(1-naphthylmethyl)-5-phenyl-4-pentenoic acid and 400 mg of bis(P-toluenesulfonic acid) salt of L-histidyl-L-leucinal semicarbazone in 7 ml of N,N-dimethylformamide were successively added 0.16 ml of diphenylphosphoryl azide and 0.28 ml of triethylamine under ice-cooling, and the mixture was stirred overnight. To the reaction mixture was added a 5% aqueous sodium bicarbonate solution, and the mixture was extracted withh ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel flash column chromatography (eluent: chloroform/methanol=15/1 by volume) to obtain 151 mg of N-[(±)-2-(1-naphthylmethyl)-5-phenyl-4-pentenoyl]-L-histidyl-L-leucinal semicarbazone as a white powder.

reactant | (±)-2-(1-naphthylmethyl)-5-phenyl-4-pentenoic acid | 190 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)O)CC=CC1=CC=CC=C1 | C22H20O2
reactant | L-histidyl-L-leucinal semicarbazone | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N | C13H23N7O2
reactant | diphenylphosphoryl azide | 0.16 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.28 ml | C(C)N(CC)CC | C6H15N
product | N-[(±)-2-(1-naphthylmethyl)-5-phenyl-4-pentenoyl]-L-histidyl-L-leucinal semicarbazone | 151 mg | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C=NNC(=O)N)CC=CC1=CC=CC=C1 | C35H41N7O3
